US07335678B2
2-(5-isoquinolinyl)-2-methylpropanoic acid
The title compound was prepared using the procedure described in Example 249A using ethyl 2-(5-isoquinolinyl)-2-methylpropanoate instead of ethyl 2-5-isoquinolinyl)propanoate.

reactant | ethyl 2-(5-isoquinolinyl)-2-methylpropanoate | C1=NC=CC2=C(C=CC=C12)C(C(=O)OCC)(C)C | C15H17NO2
reactant | propanoate | C(CC)(=O)[O-]
product | 2-(5-isoquinolinyl)-2-methylpropanoic acid | C1=NC=CC2=C(C=CC=C12)C(C(=O)O)(C)C | C13H13NO2
